US06977263B2
A solution of 4-(3-Cyano-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester (0.30 g, 0.99 mmol) in 7N ammonia/methanol (25 mL) and 5%Rhodium on alumina (0.15 g) was hydrogenated overnight on a Parr apparatus (45 psi). The reaction was filtered through celite, evaporated, and azeotroped with MeOH:toluene 1:1 (2×30 mL) to give 4-(3-Aminomethyl-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester as a foam. This compound was used directly in the next step.

reactant | 4-(3-Cyano-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester | 0.99 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)C#N | C17H22N2O3
solvent | ammonia methanol | 7N, 25 mL | N.CO
catalyst | Rhodium on alumina | 0.15 g | [Rh] | Rh
product | 4-(3-Aminomethyl-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)CN | C17H26N2O3
